Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cough, DOE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ male w/PMHx inflammatory myopathy of
unclear etiology, although it appears to be in inherited muscle
disorder of some sort, now presenting with approximately 2 
months
of cough, subjective fevers, aching, and decreased exercise
tolerance.

In the ED: He was noted to have a history of "pneumonia" that 
was
treated with azithromycin in ___, and then given Augmentin in
___, and he complained of fatigue, yellow sputum, and
intermittent subjective fever.  He also described abdominal and
chest pain with coughing, 5 out of 10, and aching muscular pain. 

He has had some posttussive vomiting.  He also stated he 
finished
all his antibiotics.  In the ED had a normal exam, labs, chest
x-ray, EKG were all normal.  Of note he had a normal d-dimer, 
his
lactate was 2.2.  He had a normal oxygen saturation with
ambulation, however his heart rate went up to 130.  As a result
he was admitted for observation.

On the floor we reviewed his history.  He describes that is he
used to be very active.  He boxed at a gym for ___ hours at a
stretch, usually ___ through ___, but he last did this
about 6 months ago, having to cut his activity due to fatigue. 
At the moment he can do one flight of stairs, then would have to
rest for ___ minutes, before being able to do another flight.  
He
does occasionally get lightheaded or dizzy with activity,
sometimes even when he standing he gets a little lightheaded, 
but
he has had no falls.  He notes that he has a key muscle pain all
the time, including in the chest, which is worse with coughing,
improved with lying down and resting.  He also has some itching,
with a rash that began 6 months ago, and he receives cream for
this which helps.  The rash is mostly in his axilla bilaterally. 

He has some left hand, first metacarpal joints, and left forearm
soreness, and occasionally some soreness in his knees, but
otherwise no ___ joint symptoms.  He denies oral ulcers.  He
describes that he also has some sneezing, sore throat, and
subjective fevers with his cough productive of yellow sputum.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___, MD

___ providers: 
Dr. ___ of ___

 
Past Medical History:
PMHx:
#Inherited muscle disorder, mild muscular dystrophy causing
"hyperCKemia" --has followed with neurology for this, and
previously been treated with methotrexate in ___, as well as
IVIG
#Transaminitis-attributed to myopathy
#Dermatitis-treated with cream with some success
#Allergic rhinitis
#History of rotator cuff syndrome
#Debridement of R second metatarsal head focal keratoma
#Previous extensive use of testosterone, and human growth
hormone, for which she was advised to stop
#History of Chlamydia
#History of acrochordon

PSHx:
#R orchiectomy for benign mass with R testicular prosthesis

 
Social History:
___
Family History:
FHx:
Mother, father and brother with diabetes. 

 
Physical Exam:
Physical Exam:
Afebrile, BP 121/73, heart rate 67, respirations 18, O2
saturation 97% on room air.  Ambulatory O2 sat 96-97%, heart 
rate
___, was able to do the entire hallway on ___ without
resting, although he did report sensation of dyspnea on 
exertion.
Middle-aged man lying in bed, able to sit up and stand without
assistance, alert, cooperative, NAD.  Anicteric, MMM, PERRL.  No
cervical or supraclavicular lymphadenopathy.  No oral lesions
noted.  Equal chest rise, CTAB posteriorly, no WOB or cough 
while
I am in the room.  Heart regular, no murmurs.  Soft,
nondistended, mild tenderness to palpation, consistent with
tenderness to palpation and ___ significant muscle areas of 
the
body (such as the pectoral muscles, and thighs).  Extremities
warm, well-perfused, no pitting edema.  Small areas of rash in
the bilateral axilla, which he appeared to be very shallow
ulcerations approximately 1-3 cm in the longest ___,
number no more than 6 total.  They do not appear to be infected. 

Normal affect, moving all extremities equally, no obvious focal
deficits, strength 5 out of 5 bilaterally.  Sensation intact to
light touch.

Discharge Exam unchanged
Of note, Respiratory measured NIF at -60, and VC at 1.99
 
Pertinent Results:
___ 09:30PM   PLT COUNT-221
___ 09:30PM   NEUTS-66.0 ___ MONOS-11.3 EOS-2.5 
BASOS-0.3 IM ___ AbsNeut-4.84 AbsLymp-1.45 AbsMono-0.83* 
AbsEos-0.18 AbsBaso-0.02
___ 09:30PM   WBC-7.3 RBC-5.52 HGB-16.8 HCT-50.1 MCV-91 
MCH-30.4 MCHC-33.5 RDW-13.5 RDWSD-45.4
___ 09:30PM   D-DIMER-266
___ 09:30PM   cTropnT-<0.01
___ 09:30PM   estGFR-Using this
___ 09:30PM   GLUCOSE-105* UREA N-13 CREAT-0.8 SODIUM-135 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-25 ANION GAP-18
___ 09:32PM   LACTATE-2.2*
___ 09:42PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.0 
LEUK-NEG
___ 09:42PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:42PM URINE  UHOLD-HOLD
___ 09:42PM URINE  HOURS-RANDOM
___ 09:40AM   CRP-17.0*
___ 09:40AM   CK-MB-13* MB INDX-1.4 cTropnT-<0.01
___ 09:40AM   ALT(SGPT)-55* AST(SGOT)-46* CK(CPK)-902* ALK 
PHOS-66 TOT BILI-0.___ man with past medical history of inherited muscle 
disorder (thought to be a mild muscular dystrophy of some sort), 
and recent history of possible pneumonia treated with 
antibiotics as an outpatient, now presenting with several months 
of decreased exercise tolerance, as well as ongoing upper 
respiratory tract symptoms.

On the day of discharge, after obtaining the labs noted above to 
assess for his CK level, and obtaining measurements from 
respiratory regarding his pulmonary function, I reviewed his 
situation with him. I explained that I had spoken with a 
pulmonary doctor, who felt that his values were reasonable, and 
that should we want to get a better sense of his lung function, 
he could obtain full pulmonary function tests as an outpatient. 
He is amenable to this idea, and I encouraged him to call his 
primary care provider to schedule ___ follow-up and discussion 
regarding ordering those tests. I provided that information to 
him on the discharge paperwork as well. I also explained that he 
could call his neurologist to schedule earlier follow-up, and he 
was okay with this. I prescribed him medications for his cough 
as noted below, and indicated there was no specific treatment 
for viral respiratory infections. He had no additional questions 
for me and was looking forward to going home.

PLAN by PROBLEMS

#Productive cough, sore throat, sneezing, subjective fevers, all 
in the context of a h/o allergic rhinitis
-the patient had no signs of a bacterial pneumonia, given the 
lack of fever here, normal chest x-ray, normal white blood cell 
count, and it's actually questionable whether he actually had 
pneumonia back in ___ given the equivocal chest x-ray finding 
at that time
-it did appear that he had a viral upper respiratory tract 
infection, given his history of sick contacts at work, and it is 
possible that he has suffered back to back viral infections
-He did not feel that his symptoms were consistent with allergic 
rhinitis, and he did not previously receive any benefit from 
cetirizine
-As a result he was treated symptomatically for his cough, and 
no further workup was pursued for these symptoms at this time

#Subjective dyspnea on exertion, with muscle aches, in the 
setting of inherited muscle disorder (thought to be a mild 
muscular dystrophy of some sort)
-Given his unremarkable exam, d-dimer, ECG, troponin tests, 
ambulatory exercise test, and his unremarkable respiratory 
function tests results, without any signs of objective 
decompensation, there was little concern about these symptoms
-His chest discomfort was not consistent with a cardiac 
etiology, however a stress test could be considered in the 
ambulatory setting should no ___ etiology for his symptoms be 
found

#Bilateral axillary rash
-This is been previously thought to be a dermatitis, for which 
he
takes triamcinolone and ketoconazole creams, for which I 
provided refills

The patient was safe to discharge, and on the day of discharge I 
spent more than 30 minutes in discharge day services, 
counseling, and coordination of care.

___, M.D.
Attending Physician, ___ medicine
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
2. Aspirin 325 mg PO BID:PRN pain 
3. Ketoconazole 2%  1 Appl TP BID 
4. Ascorbic Acid ___ mg PO BID 
5. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Benzonatate 200 mg PO TID 
RX *benzonatate 200 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL ___ mL by mouth 
Q6H:PRN Refills:*1 
3.  Ascorbic Acid ___ mg PO BID  
4.  Aspirin 325 mg PO BID:PRN pain  
5.  Ketoconazole 2%  1 Appl TP BID 
RX *ketoconazole 2 % 1 APPL twice a day Refills:*0 
6.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
RX *triamcinolone acetonide 0.1 % 1 APPL twice a day Refills:*0 
7.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Inherited muscle disorder, with possible mild muscular 
dystrophy
#Upper respiratory viral infection
#Allergic rhinitis
#Bilateral axillary rash/dermatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with cough, sneezing, sore throat, muscle 
aches and fatigue and shortness of breath with exertion.  We 
found no signs of a bacterial infection or pneumonia, and I 
think it's likely you have had a series of viral upper 
respiratory tract infections.  Continue to take medications to 
help with your cough, get good rest and you should improve.  
Regarding your fatigue with exertion, tests of your heart and 
lungs showed no problems.  I recommend you follow-up as noted 
below.
 
Followup Instructions:
___